US05260316
A solution of 2-[3-(4-fluorophenyl)-propyl]-6-[2-(N-aminocarbonyl-N-hydroxyamino)-ethoxy]-1-oxo-1,2,3,4-tetrahydroisoquinoline (500 mg, 1.2 mmol) and triethylamine (0.2 mL, 1.4 mmol) are dissolved in THF (25 mL) and acetyl chloride (0.1 mL, 1.4 mmol) is added. The reaction mixture is stirred for 2 hours and subsequently poured into 2N HCl. The aqueous phase is extracted with EtOAc (3×100 mL) and the combined organics washed with 2N HCl (2×100 mL) H2O (2×100 mL), saturated NaHCO3 solution (2×100 mL), saturated NaCl solution (2×100 mL), dried over MgSO4 and concentrated in vacuo. The residue is triturated with hexanes and chromatographed (silica gel, 1:1 EtOAc/hexane). The resulting material is crystallized from cold CH2Cl2 /Et2O and dried in vacuo to give 2-[3-(4-fluorophenyl)-propyl]-6-{2-[N-(aminocarbonyl)-N-(acetyloxy)amino]-ethoxy}-1-oxo-1,2,3,4-tetrahydroisoquinoline, m.p. 113°-114°.

reactant | 2-[3-(4-fluorophenyl)-propyl]-6-[2-(N-aminocarbonyl-N-hydroxyamino)-ethoxy]-1-oxo-1,2,3,4-tetrahydroisoquinoline | 1.2 mmol, 500 mg | FC1=CC=C(C=C1)CCCN1C(C2=CC=C(C=C2CC1)OCCN(O)C(=O)N)=O | C21H24FN3O4
reactant | triethylamine | 1.4 mmol, 0.2 mL | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 1.4 mmol, 0.1 mL | C(C)(=O)Cl | C2H3ClO
reactant | HCl | 2N | Cl | ClH
solvent | THF | 25 mL | C1CCOC1 | C4H8O
product | 2-[3-(4-fluorophenyl)-propyl]-6-{2-[N-(aminocarbonyl)-N-(acetyloxy)amino]-ethoxy}-1-oxo-1,2,3,4-tetrahydroisoquinoline | FC1=CC=C(C=C1)CCCN1C(C2=CC=C(C=C2CC1)OCCN(OC(C)=O)C(=O)N)=O | C23H26FN3O5
